*|DSPF	1.5
*|DESIGN	nmos_cm
*|DATE	"Wed Jun 19 2025"
*|VENDOR	"Mentor Graphics Corporation"
*|PROGRAM	"Calibre xACT"
*|VERSION	"v2020.4_34.17"
*|DIVIDER	|
*|DELIMITER	:
*|BUSBIT	[]
* Corner Name: 12lp_11M_3Mx_4Cx_2Kx_2Gx_LB_nominal_detailed_25
* Nominal Temperature: 25C
* Circuit Temperature: 25C
*

* Integrated TICER reduction is not enabled.
* SHORT DELAY THRESHOLD: 2e-14
* Fill Mode: NG
* PEX REDUCE CC ABSOLUTE : disabled
* PEX REDUCE CC RATIO : disabled
* Delta transform mode : 344834

.subckt nmos_cm d0 d1 s

* Net:s ----------------


R1 s s:10 2.268
R2 s s:27 1.008
R3 s s:0 4.368
R4 s s:2 4.368
R5 s:2 s:12 2.268
R6 s:2 MN1@1:s 14
R7 s:2 s:29 1.092
R8 s:2 MN1@1:s 14
R9 s:2 s:1 4.368
R10 s:2 MN1@1:s 14
R11 s:2 s:22 1.092
R12 s:2 MN1@1:s 14
R13 s:1 s:10 2.268
R14 s:1 MN0@1:s 14
R15 s:1 s:27 1.008
R16 s:1 MN0@1:s 14
R17 s:1 s:0 4.368
R18 s:1 MN0@1:s 14
R19 s:0 s:8 2.268
R20 s:0 MN0@0:s 14
R21 s:0 s:28 1.092
R22 s:0 MN0@0:s 14
R23 s:0 s:21 1.092
R24 s:0 MN0@0:s 14
R25 s:28 s:7 3.36
R26 s:28 MN0@0:s 14
R27 s:27 s:9 3.444
R28 s:27 MN0@1:s 14
R29 s:10 s:17 9.408
R30 s:17 s:31 3.36
R31 s:31 s:5 1.092
R32 s:31 MN0@3:s 14
R33 s:5 s:18 2.268
R34 s:5 MN0@3:s 14
R35 s:5 s:4 4.368
R36 s:5 MN0@3:s 14
R37 s:5 s:6 4.368
R38 s:5 MN0@3:s 14
R39 s:6 s:20 2.268
R40 s:6 MN1@3:s 14
R41 s:6 s:32 1.092
R42 s:6 MN1@3:s 14
R43 s:6 s:24 1.092
R44 s:6 MN1@3:s 14
R45 s:32 s:19 3.36
R46 s:32 MN1@3:s 14
R47 s:4 s:16 2.268
R48 s:4 MN0@2:s 14
R49 s:4 s:30 1.092
R50 s:4 MN0@2:s 14
R51 s:4 s:23 1.092
R52 s:4 MN0@2:s 14
R53 s:30 s:15 3.36
R54 s:30 MN0@2:s 14
R55 s:18 s:13 8.232
R56 s:13 s:3 1.12
R57 s:3 s:14 1.12
R58 s:3 MN0@0:b 14
R59 s:3 s:25 4.816
R60 s:3 MN0@0:b 14
R61 s:3 s:26 4.816
R62 s:3 MN0@0:b 14
R63 s:29 s:11 3.36
R64 s:29 MN1@1:s 14
R65 MN0@1:s MN1@0:s 0.01
R66 MN0@0:b MN0@1:b 0.01
R67 MN0@1:b MN1@0:b 0.01
R68 MN1@0:b MN1@1:b 0.01
R69 MN1@1:b MN0@2:b 0.01
R70 MN0@2:b MN0@3:b 0.01
R71 MN0@3:b MN1@2:b 0.01
R72 MN1@2:b MN1@3:b 0.01
R73 MN0@3:s MN1@2:s 0.01
R74 MN1@3:s MN2@0:s 0.01
C1 s:2 0 1.701e-14
C2 s:2 0 8.190000000000001e-15
C3 s:2 0 3.2760000000000004e-14
C4 s:2 0 8.190000000000001e-15
C5 s:1 0 1.701e-14
C6 s:1 0 7.56e-15
C7 s:1 0 3.2760000000000004e-14
C8 s:0 0 1.701e-14
C9 s:0 0 8.190000000000001e-15
C10 s:0 0 8.190000000000001e-15
C11 s:28 0 2.5200000000000002e-14
C12 s:27 0 2.5830000000000002e-14
C13 s:10 0 7.056e-14
C14 s:17 0 2.5200000000000002e-14
C15 s:31 0 8.190000000000001e-15
C16 s:5 0 1.701e-14
C17 s:5 0 3.2760000000000004e-14
C18 s:5 0 3.2760000000000004e-14
C19 s:6 0 1.701e-14
C20 s:6 0 8.190000000000001e-15
C21 s:6 0 8.190000000000001e-15
C22 s:32 0 2.5200000000000002e-14
C23 s:4 0 1.701e-14
C24 s:4 0 8.190000000000001e-15
C25 s:4 0 8.190000000000001e-15
C26 s:30 0 2.5200000000000002e-14
C27 s:18 0 6.174e-14
C28 s:13 0 8.400000000000001e-15
C29 s:3 0 8.400000000000001e-15
C30 s:3 0 3.612e-14
C31 s:3 0 3.612e-14
C32 s:29 0 2.5200000000000002e-14


* Net:d0 ----------------


R75 d0 d0:24 1.092
R76 d0 d0:22 1.008
R77 d0 d0:18 1.008
R78 d0 d0:19 1.008
R79 d0:19 d0:0 1.008
R80 d0:0 d0:24 1.092
R81 d0:0 MN0@0:d 14
R82 d0:0 d0:22 1.008
R83 d0:0 MN0@0:d 14
R84 d0:0 d0:18 1.008
R85 d0:0 MN0@0:d 14
R86 d0:22 d0:6 1.26
R87 d0:24 d0:7 3.36
R88 d0:24 MN0@0:d 14
R89 d0:7 d0:4 2.66
R90 d0:4 d0:10 6.748
R91 d0:4 d0:14 2.632
R92 d0:4 d0:1 2.184
R93 d0:1 d0:9 1.12
R94 d0:1 MN0@0:g 342
R95 d0:1 MN0@1:g 342
R96 d0:1 MN1@0:g 342
R97 d0:1 MN1@1:g 342
R98 d0:1 MN0@2:g 342
R99 d0:1 MN0@3:g 342
R100 d0:1 MN1@2:g 342
R101 d0:1 MN1@3:g 342
R102 d0:1 d0:8 1.12
R103 d0:1 MN0@0:g 342
R104 d0:1 MN0@1:g 342
R105 d0:1 MN1@0:g 342
R106 d0:1 MN1@1:g 342
R107 d0:1 MN0@2:g 342
R108 d0:1 MN0@3:g 342
R109 d0:1 MN1@2:g 342
R110 d0:1 MN1@3:g 342
R111 d0:1 d0:15 4.816
R112 d0:1 MN0@0:g 342
R113 d0:1 MN0@1:g 342
R114 d0:1 MN1@0:g 342
R115 d0:1 MN1@1:g 342
R116 d0:1 MN0@2:g 342
R117 d0:1 MN0@3:g 342
R118 d0:1 MN1@2:g 342
R119 d0:1 MN1@3:g 342
R120 d0:10 d0:2 2.268
R121 d0:2 d0:25 1.092
R122 d0:2 MN0@2:d 14
R123 d0:2 d0:20 1.008
R124 d0:2 MN0@2:d 14
R125 d0:2 d0:21 1.008
R126 d0:2 MN0@2:d 14
R127 d0:25 d0:11 3.36
R128 d0:25 MN0@2:d 14
R129 d0:11 d0:5 2.66
R130 d0:5 d0:23 1.008
R131 d0:5 d0:16 2.632
R132 d0:5 d0:3 2.184
R133 d0:3 d0:13 1.12
R134 d0:3 MN0@0:g 342
R135 d0:3 MN0@1:g 342
R136 d0:3 MN1@0:g 342
R137 d0:3 MN1@1:g 342
R138 d0:3 MN0@2:g 342
R139 d0:3 MN0@3:g 342
R140 d0:3 MN1@2:g 342
R141 d0:3 MN1@3:g 342
R142 d0:3 d0:12 1.12
R143 d0:3 MN0@0:g 342
R144 d0:3 MN0@1:g 342
R145 d0:3 MN1@0:g 342
R146 d0:3 MN1@1:g 342
R147 d0:3 MN0@2:g 342
R148 d0:3 MN0@3:g 342
R149 d0:3 MN1@2:g 342
R150 d0:3 MN1@3:g 342
R151 d0:3 d0:17 4.816
R152 d0:3 MN0@0:g 342
R153 d0:3 MN0@1:g 342
R154 d0:3 MN1@0:g 342
R155 d0:3 MN1@1:g 342
R156 d0:3 MN0@2:g 342
R157 d0:3 MN0@3:g 342
R158 d0:3 MN1@2:g 342
R159 d0:3 MN1@3:g 342
R160 MN0@0:d MN0@1:d 0.01
R161 MN0@2:d MN0@3:d 0.01
C33 d0:19 0 7.56e-15
C34 d0:0 0 8.190000000000001e-15
C35 d0:0 0 7.56e-15
C36 d0:0 0 7.56e-15
C37 d0:22 0 9.45e-15
C38 d0:24 0 2.5200000000000002e-14
C39 d0:7 0 1.995e-14
C40 d0:4 0 5.0610000000000005e-14
C41 d0:4 0 1.974e-14
C42 d0:4 0 1.6380000000000002e-14
C43 d0:1 0 8.400000000000001e-15
C44 d0:1 0 8.400000000000001e-15
C45 d0:1 0 3.612e-14
C46 d0:10 0 1.701e-14
C47 d0:2 0 8.190000000000001e-15
C48 d0:2 0 7.56e-15
C49 d0:2 0 7.56e-15
C50 d0:25 0 2.5200000000000002e-14
C51 d0:11 0 1.995e-14
C52 d0:5 0 7.56e-15
C53 d0:5 0 1.974e-14
C54 d0:5 0 1.6380000000000002e-14
C55 d0:3 0 8.400000000000001e-15
C56 d0:3 0 8.400000000000001e-15
C57 d0:3 0 3.612e-14


* Net:d1 ----------------


R162 d1 d1:12 1.092
R163 d1 d1:10 1.008
R164 d1 d1:6 1.008
R165 d1 d1:7 1.008
R166 d1:7 d1:0 1.008
R167 d1:0 d1:12 1.092
R168 d1:0 MN1@0:d 14
R169 d1:0 d1:10 1.008
R170 d1:0 MN1@0:d 14
R171 d1:0 d1:6 1.008
R172 d1:0 MN1@0:d 14
R173 d1:10 d1:2 1.26
R174 d1:12 d1:3 3.36
R175 d1:12 MN1@0:d 14
R176 d1:3 d1:4 9.408
R177 d1:4 d1:1 2.268
R178 d1:1 d1:11 1.008
R179 d1:1 MN1@2:d 14
R180 d1:1 d1:8 1.008
R181 d1:1 MN1@2:d 14
R182 d1:1 d1:9 1.008
R183 d1:1 MN1@2:d 14
R184 d1:11 d1:5 3.444
R185 d1:11 MN1@2:d 14
R186 MN1@0:d MN1@1:d 0.01
R187 MN1@2:d MN1@3:d 0.01
C58 d1:7 0 7.56e-15
C59 d1:0 0 8.190000000000001e-15
C60 d1:0 0 7.56e-15
C61 d1:0 0 7.56e-15
C62 d1:10 0 9.45e-15
C63 d1:12 0 2.5200000000000002e-14
C64 d1:3 0 7.056e-14
C65 d1:4 0 1.701e-14
C66 d1:1 0 7.56e-15
C67 d1:1 0 7.56e-15
C68 d1:1 0 7.56e-15
C69 d1:11 0 2.5830000000000002e-14


xMN0@0 MN0@0:d MN0@0:g MN0@0:s MN0@0:b nfet m=1 l=1.4e-08 nfin=5 nf=1 par=1 par_nf=1 asej=2.97e-15 adej=2.97e-15 psej=5.95e-07 pdej=5.95e-07 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@1 MN0@1:d MN0@1:g MN0@1:s MN0@1:b nfet m=1 l=1.4e-08 nfin=5 nf=1 par=1 par_nf=1 asej=2.97e-15 adej=2.97e-15 psej=5.95e-07 pdej=5.95e-07 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@0 MN1@0:d MN1@0:g MN1@0:s MN1@0:b nfet m=1 l=1.4e-08 nfin=5 nf=1 par=1 par_nf=1 asej=2.97e-15 adej=2.97e-15 psej=5.95e-07 pdej=5.95e-07 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@1 MN1@1:d MN1@1:g MN1@1:s MN1@1:b nfet m=1 l=1.4e-08 nfin=5 nf=1 par=1 par_nf=1 asej=2.97e-15 adej=2.97e-15 psej=5.95e-07 pdej=5.95e-07 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@2 MN0@2:d MN0@2:g MN0@2:s MN0@2:b nfet m=1 l=1.4e-08 nfin=5 nf=1 par=1 par_nf=1 asej=2.97e-15 adej=2.97e-15 psej=5.95e-07 pdej=5.95e-07 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@3 MN0@3:d MN0@3:g MN0@3:s MN0@3:b nfet m=1 l=1.4e-08 nfin=5 nf=1 par=1 par_nf=1 asej=2.97e-15 adej=2.97e-15 psej=5.95e-07 pdej=5.95e-07 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@2 MN1@2:d MN1@2:g MN1@2:s MN1@2:b nfet m=1 l=1.4e-08 nfin=5 nf=1 par=1 par_nf=1 asej=2.97e-15 adej=2.97e-15 psej=5.95e-07 pdej=5.95e-07 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@3 MN1@3:d MN1@3:g MN1@3:s MN1@3:b nfet m=1 l=1.4e-08 nfin=5 nf=1 par=1 par_nf=1 asej=2.97e-15 adej=2.97e-15 psej=5.95e-07 pdej=5.95e-07 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1

.end