*|DSPF	1.5
*|DESIGN	nmos_cm_2x9_0
*|DATE	"Wed Jun 19 2025"
*|VENDOR	"Mentor Graphics Corporation"
*|PROGRAM	"Calibre xACT"
*|VERSION	"v2020.4_34.17"
*|DIVIDER	|
*|DELIMITER	:
*|BUSBIT	[]
* Corner Name: 12lp_11M_3Mx_4Cx_2Kx_2Gx_LB_nominal_detailed_25
* Nominal Temperature: 25C
* Circuit Temperature: 25C
*

* Integrated TICER reduction is not enabled.
* SHORT DELAY THRESHOLD: 2e-14
* Fill Mode: NG
* PEX REDUCE CC ABSOLUTE : disabled
* PEX REDUCE CC RATIO : disabled
* Delta transform mode : 344834

.subckt nmos_cm_2x9_0 d0 d1 s

* Net:s ----------------


R1 s s:18 0.672
R2 s s:7 2.128
R3 s s:13 1.092
R4 s s:4 3.724
R5 s:4 s:0 17.64
R6 s:4 s:1 3.724
R7 s:4 s:2 0.644
R8 s:2 s:21 0.672
R9 s:2 MN0@1:s 14
R10 s:2 s:9 2.128
R11 s:2 MN0@1:s 14
R12 s:2 s:3 4.368
R13 s:2 MN0@1:s 14
R14 s:3 s:24 0.672
R15 s:3 MN1@1:s 14
R16 s:3 s:11 2.128
R17 s:3 MN1@1:s 14
R18 s:3 s:14 1.092
R19 s:3 MN1@1:s 14
R20 s:24 s:25 3.528
R21 s:24 MN1@1:s 14
R22 s:25 s:26 3.528
R23 s:25 MN1@1:s 14
R24 s:26 s:12 2.52
R25 s:26 MN1@1:s 14
R26 s:21 s:22 3.528
R27 s:21 MN0@1:s 14
R28 s:22 s:23 3.528
R29 s:22 MN0@1:s 14
R30 s:23 s:10 2.52
R31 s:23 MN0@1:s 14
R32 s:1 s:18 0.672
R33 s:1 MN0@0:s 14
R34 s:1 s:7 2.128
R35 s:1 MN0@0:s 14
R36 s:1 s:13 1.092
R37 s:1 MN0@0:s 14
R38 s:18 s:19 3.528
R39 s:18 MN0@0:s 14
R40 s:19 s:20 3.528
R41 s:19 MN0@0:s 14
R42 s:20 s:8 2.52
R43 s:20 MN0@0:s 14
R44 s:0 s:15 1.176
R45 s:0 MN0@0:b 14
R46 s:0 s:16 1.12
R47 s:0 MN0@0:b 14
R48 s:0 s:17 2.408
R49 s:0 MN0@0:b 14
R50 s:17 s:6 1.187
R51 s:17 MN0@0:b 14
R52 s:16 s:5 1.187
R53 s:16 MN0@0:b 14
R54 MN0@0:b MN0@1:b 0.01
R55 MN0@1:b MN1@0:b 0.01
R56 MN1@0:b MN1@1:b 0.01
R57 MN0@1:s MN1@0:s 0.01
R58 MN1@1:s MN2@0:s 0.01
C1 s:4 0 1.323e-13
C2 s:4 0 2.793e-14
C3 s:4 0 4.83e-15
C4 s:2 0 5.04e-15
C5 s:2 0 1.5960000000000002e-14
C6 s:2 0 3.2760000000000004e-14
C7 s:3 0 5.04e-15
C8 s:3 0 1.5960000000000002e-14
C9 s:3 0 8.190000000000001e-15
C10 s:24 0 2.6460000000000002e-14
C11 s:25 0 2.6460000000000002e-14
C12 s:26 0 1.89e-14
C13 s:21 0 2.6460000000000002e-14
C14 s:22 0 2.6460000000000002e-14
C15 s:23 0 1.89e-14
C16 s:1 0 5.04e-15
C17 s:1 0 1.5960000000000002e-14
C18 s:1 0 8.190000000000001e-15
C19 s:18 0 2.6460000000000002e-14
C20 s:19 0 2.6460000000000002e-14
C21 s:20 0 1.89e-14
C22 s:0 0 8.82e-15
C23 s:0 0 8.400000000000001e-15
C24 s:0 0 1.806e-14
C25 s:17 0 8.904000000000007e-15
C26 s:16 0 8.903999999999996e-15


* Net:d0 ----------------


R59 d0 d0:8 3.752
R60 d0 d0:2 0.588
R61 d0 d0:6 0.728
R62 d0 d0:7 0.728
R63 d0:7 d0:0 0.728
R64 d0:0 d0:8 3.752
R65 d0:0 d0:2 0.588
R66 d0:0 d0:6 0.728
R67 d0:8 d0:9 3.528
R68 d0:8 MN0@0:d 14
R69 d0:9 d0:10 3.528
R70 d0:9 MN0@0:d 14
R71 d0:10 d0:3 2.52
R72 d0:10 MN0@0:d 14
R73 d0:3 d0:1 2.268
R74 d0:1 d0:4 3.276
R75 d0:1 MN0@0:g 342
R76 d0:1 MN0@1:g 342
R77 d0:1 MN1@0:g 342
R78 d0:1 MN1@1:g 342
R79 d0:1 d0:11 3.668
R80 d0:1 MN0@0:g 342
R81 d0:1 MN0@1:g 342
R82 d0:1 MN1@0:g 342
R83 d0:1 MN1@1:g 342
R84 d0:11 d0:5 3.976
R85 d0:11 MN0@0:g 342
R86 d0:11 MN0@1:g 342
R87 d0:11 MN1@0:g 342
R88 d0:11 MN1@1:g 342
R89 MN0@0:d MN0@1:d 0.01
C27 d0:7 0 5.46e-15
C28 d0:0 0 2.814e-14
C29 d0:0 0 4.41e-15
C30 d0:0 0 5.46e-15
C31 d0:8 0 2.6460000000000002e-14
C32 d0:9 0 2.6460000000000002e-14
C33 d0:10 0 1.89e-14
C34 d0:3 0 1.701e-14
C35 d0:1 0 2.457e-14
C36 d0:1 0 2.751e-14
C37 d0:11 0 2.982e-14


* Net:d1 ----------------


R90 d1 d1:5 3.752
R91 d1 d1:1 0.588
R92 d1 d1:3 0.728
R93 d1 d1:4 0.728
R94 d1:4 d1:0 0.728
R95 d1:0 d1:5 3.752
R96 d1:0 d1:1 0.588
R97 d1:0 d1:3 0.728
R98 d1:5 d1:6 3.528
R99 d1:5 MN1@0:d 14
R100 d1:6 d1:7 3.528
R101 d1:6 MN1@0:d 14
R102 d1:7 d1:2 2.52
R103 d1:7 MN1@0:d 14
R104 MN1@0:d MN1@1:d 0.01
C38 d1:4 0 5.46e-15
C39 d1:0 0 2.814e-14
C40 d1:0 0 4.41e-15
C41 d1:0 0 5.46e-15
C42 d1:5 0 2.6460000000000002e-14
C43 d1:6 0 2.6460000000000002e-14
C44 d1:7 0 1.89e-14


xMN0@0 MN0@0:d MN0@0:g MN0@0:s MN0@0:b nfet m=1 l=1.4e-08 nfin=9 nf=1 par=1 par_nf=1 asej=5.35e-15 adej=5.35e-15 psej=1.07e-06 pdej=1.07e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@1 MN0@1:d MN0@1:g MN0@1:s MN0@1:b nfet m=1 l=1.4e-08 nfin=9 nf=1 par=1 par_nf=1 asej=5.35e-15 adej=5.35e-15 psej=1.07e-06 pdej=1.07e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@0 MN1@0:d MN1@0:g MN1@0:s MN1@0:b nfet m=1 l=1.4e-08 nfin=9 nf=1 par=1 par_nf=1 asej=5.35e-15 adej=5.35e-15 psej=1.07e-06 pdej=1.07e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@1 MN1@1:d MN1@1:g MN1@1:s MN1@1:b nfet m=1 l=1.4e-08 nfin=9 nf=1 par=1 par_nf=1 asej=5.35e-15 adej=5.35e-15 psej=1.07e-06 pdej=1.07e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1

.end